US05215972
0.74 g of (RS)-glycidol and 2.8 g of trityl chloride in 5 ml of pyridine are reacted overnight. A solution of 2 g of potassium bicarbonate is then added while stirring. After evaporation, partition of the residue between water and methylene chloride and chromatography on silica gel with toluene there are obtained 2.25 g of (RS)-epoxy-1-O-tritylglycerol.

reactant | (RS)-glycidol | 0.74 g | C1C(O1)CO | C3H6O2
reactant | trityl chloride | 2.8 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | potassium bicarbonate | 2 g | C([O-])(O)=O.[K+]
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | (RS)-epoxy-1-O-tritylglycerol | 2.25 g | O1C(OC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C1(O)CO | C22H20O4
